US07129242B2
4-{4-[4-(Morpholine-4-sulfonyl)-phenyl]-pyrimidin-2-ylamino}benzoic Acid
Crude 1-[4-(morpholine-4-sulfonyl)phenyl]ethanone (4.78 g, 18 mmol) was suspended in dimethylormamide dimethylacetal (50 mL) and refluxed for 12 h. The reaction was allowed to cool and the mixture was concentrated to about half of the original volume. The solution was then titurated with hexanes to precipitate the eneamino ketone intermediate. The eneamino ketone was filtered and washed with hexanes (2×50 mL), dried under vacuum, and then taken up in nPrOH (150 mL). To this solution was added added 4-guanidinobenzoic acid, methyl ester, hydrochloride salt (1.1 equiv, 3.7 g) and K2CO3 (3 equiv, 6.4 g). The mixture was stirred at reflux for 24 h. After this time, 10% NaOH (aq, 50 mL) was added, and the mixture was stirred at reflux for another 1 h. The mixture was then cooled to RT and concentrated to about half of the original volume. The pH of the mixture was then adjusted to pH 4–5 to precipitate the acid. 4-{4-[4-(morpholine-4-sulfonyl)phenyl]pyrimidin-2-ylamino}benzoic acid was immediately filtered and washed with water (50 mL), cold EtOH (50 mL), and then dried (4.6 g, 10.5 mmol, 68%): HPLC Retention Time; 6.6 min. (Method B) M+1, 441.0.

reactant | 1-[4-(morpholine-4-sulfonyl)phenyl]ethanone | 18 mmol, 4.78 g | N1(CCOCC1)S(=O)(=O)C1=CC=C(C=C1)C(C)=O | C12H15NO4S
reactant | 4-guanidinobenzoic acid, methyl ester, hydrochloride salt | 3.7 g, 1.1 equiv | Cl.N(C(=N)N)C1=CC=C(C(=O)OC)C=C1
reactant | K2CO3 | 6.4 g, 3 equiv | C(=O)([O-])[O-].[K+].[K+]
solvent | NaOH | 50 mL | [OH-].[Na+]
product | 4-{4-[4-(Morpholine-4-sulfonyl)-phenyl]-pyrimidin-2-ylamino}benzoic Acid | N1(CCOCC1)S(=O)(=O)C1=CC=C(C=C1)C1=NC(=NC=C1)NC1=CC=C(C(=O)O)C=C1 | C21H20N4O5S
